US08431713B2
Step F: Preparation of 1-(5-Bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea:
1-Benzoyl-3-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea (2.8 g, 6.3 mmol) and potassium carbonate (0.57 mL, 9.5 mmol) were diluted in ethanol (50 mL). The reaction was stirred at 40° C. for 5 hours, then concentrated and purified using silica gel column chromatography (eluting with ethyl acetate) to give the title compound (1.58 g, 74% yield) as light yellow solid.

reactant | 1-Benzoyl-3-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea | 6.3 mmol, 2.8 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=NC=C(C(=C1)OC=1C(=NC=CC1)C)Br | C19H15BrN4O2S
reactant | potassium carbonate | 9.5 mmol, 0.57 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(5-Bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea | 1.58 g, 74% yield | BrC=1C(=CC(=NC1)NC(=S)N)OC=1C(=NC=CC1)C | C12H11BrN4OS
